US08685958B2
(3-(4-(2-oxa-5-azaspiro[3.4]octan-5-ylmethyl)phenoxy)azetidin-1-yl)(5-(4-methoxyphenyl)-1,3,4-oxadiazol-2-yl)methanone
2-Oxa-5-azaspiro[3.4]octane (0.03 g, 0.26 mmol) was dissolved in dichloromethane (2 ml). Triethylamine (0.04 ml, 0.29 mmol) was added, followed by 4-(1-(5-(4-methoxyphenyl)-1,3,4-oxadiazole-2-carbonyl)azetidin-3-yloxy)benzaldehyde (0.1 g, 0.26 mmol) and finally sodium triacetoxyhydroborate (0.112 g, 0.53 mmol). The mixture was stirred at ambient temperature overnight. The reaction mixture was then diluted with dichloromethane (10 ml) and subsequently shaken with NaHCO3 (sat. 3 ml). The two phases were separated by the use of a phase separator. Evaporation of the organic phase afforded a residue, which was purified by preparative reverse-phase. HPLC at pH 10 to give 0.075 g (60%) of the desired product as a solid. 1H NMR (600 MHz, DMSO) δ 1.62 (dt, 2H), 2.1-2.15 (m, 2H), 2.49 (t, 2H), 3.88 (s, 3H), 3.91 (s, 2H), 4.09 (ddd, 1H), 4.43 (d, 2H), 4.54 (ddd, 1H), 4.63 (ddd, 1H), 4.80 (d, 2H), 5.09 (ddd, 1H), 5.16 (ddd, 1H), 6.86 (d, 2H), 7.17-7.21 (m, 2H), 7.30 (d, 2H), 8-8.04 (m, 2H). MS (APCI+) m/z 477.2 [M+H]+, LC purity: 95%

reactant | 2-Oxa-5-azaspiro[3.4]octane | 0.26 mmol, 0.03 g | C1OCC12NCCC2 | C6H11NO
reactant | Triethylamine | 0.29 mmol, 0.04 ml | C(C)N(CC)CC | C6H15N
reactant | 4-(1-(5-(4-methoxyphenyl)-1,3,4-oxadiazole-2-carbonyl)azetidin-3-yloxy)benzaldehyde | 0.26 mmol, 0.1 g | COC1=CC=C(C=C1)C1=NN=C(O1)C(=O)N1CC(C1)OC1=CC=C(C=O)C=C1 | C20H17N3O5
reactant | sodium | [Na] | Na
reactant | NaHCO3 | 3 ml | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (3-(4-(2-oxa-5-azaspiro[3.4]octan-5-ylmethyl)phenoxy)azetidin-1-yl)(5-(4-methoxyphenyl)-1,3,4-oxadiazol-2-yl)methanone | 0.075 g, 60% | C1OCC12N(CCC2)CC2=CC=C(OC1CN(C1)C(=O)C=1OC(=NN1)C1=CC=C(C=C1)OC)C=C2 | C26H28N4O5
